US07981903B2
In a sealed tube were placed (2S)-2-({[4-(methyloxy)-3-nitrophenyl]oxy}methyl)oxirane (1.0 g, 4.4 mmol), pyrrolidine (3.2 g, 44 mmol), and isopropanol (20 mL). The mixture was heated under microwave to 140° C. for 10 min. Removal of the isopropanol afforded the crude product which was placed in ethanol (100 mL) with 10% palladium on carbon (0.5 g). The reation mixture was kept stirring under H2 at 60 psi overnight. Filtration removed the catalyst and concentration afforded (2S)-1-{[3-amino-4-(methyloxy)phenyl]oxy}-3-(1-pyrrolidinyl)-2-propanol (1.1 g, 95% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.67 (ddd, J=6.4, 3.5, 3.3 Hz, 4H), 2.47-2.50 (m, 1 H), 2.55 (d, J=1.8 Hz, 4 H), 2.64 (dd, J=12.3, 5.7 Hz, 1 H), 3.63-3.71 (m, 4 H), 3.75-3.82 (m, 1 H), 3.83-3.89 (m, 1 H), 4.70 (s, 2 H), 4.88 (s, 1 H), 6.03 (dd, J=8.4, 2.9 Hz, 1 H), 6.24 (d, J=2.9 Hz, 1 H), 6.63 (d, J=8.8 Hz, 1 H).

reactant | (2S)-2-({[4-(methyloxy)-3-nitrophenyl]oxy}methyl)oxirane | 4.4 mmol, 1.0 g | COC1=C(C=C(C=C1)OC[C@H]1OC1)[N+](=O)[O-] | C10H11NO5
reactant | pyrrolidine | 44 mmol, 3.2 g | N1CCCC1 | C4H9N
reactant | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | (2S)-1-{[3-amino-4-(methyloxy)phenyl]oxy}-3-(1-pyrrolidinyl)-2-propanol | 1.1 g, 95% yield | NC=1C=C(C=CC1OC)OC[C@H](CN1CCCC1)O | C14H22N2O3
